US07282501B2
Step A: 3-[4-[2-(2-Biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid methyl ester
3-[4-Hydroxy-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid methyl ester (Preparation 17) and toluene-4-sulfonic acid 2-(2-biphenyl-4-yl-5-methyl-oxazol-4-yl)ethyl ester (Preparation 1) were combined according to Standard procedure A to give the title compound.

reactant | 3-[4-Hydroxy-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)O)CNC(=O)OC(C)C)=O | C15H21NO5
reactant | toluene-4-sulfonic acid 2-(2-biphenyl-4-yl-5-methyl-oxazol-4-yl)ethyl ester | C1(=CC=C(C=C1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C)C1=CC=CC=C1 | C25H23NO4S
product | 3-[4-[2-(2-Biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C1=CC=CC=C1)CNC(=O)OC(C)C)=O | C33H36N2O6
